US04486428
dl-4,5-Dihydroxy-4-methoxycarbonylmethyl-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran
A mixture of 655 mg (1.37 mmole) 5-benzyloxy-4-ethoxycarbonylmethyl-4-hydroxy-2,2-dimethyl-7(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran, 133 mg 5% palladium-on-calcium carbonate and 50 ml methanol was hydrogenated at 38 psi (2.7 kg/cm2) until hydrogen uptake ceased. The mixture was filtered, the filtrate evaporated in vacuo and the residual oil taken up in hexane. Upon cooling, crystals formed which were collected by filtration, 66 mg. The mother liquor was evaporated in vacuo to an oil, pentane added and the mixture refrigerated overnight. Filtration gave an additional 179 mg of product. 1H-NMR(CDCl3)ppm(delta): 3.00 (dd, 2H), 3.20 (s, 2H), 3.70 (s, 3H), 4.90 (s, 1H), 6.35 (m, 2H), 7.65 (s, 1H).

reactant | 5-benzyloxy-4-ethoxycarbonylmethyl-4-hydroxy-2,2-dimethyl-7(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | 1.37 mmole, 655 mg | C(C1=CC=CC=C1)OC1=CC(=CC2=C1C(CC(O2)(C)C)(O)CC(=O)OCC)C(CCCCCC)(C)C | C31H44O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
product | 4,5-Dihydroxy-4-methoxycarbonylmethyl-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | 179 mg | OC1(CC(OC2=C1C(=CC(=C2)C(CCCCCC)(C)C)O)(C)C)CC(=O)OC | C23H36O5
